US05371069
A mixture of cinnamaldehyde diethylacetal (223.0 g, 1.08 mol), diethyl L-tartrate (290 g, 1.41 mol), toluene (1100 g) and pyridinium p-toluenesulfonate (1.7 g) was heated at 92°-110° C. for a 6 hour period. During the heating period, volatiles (250-300 mL) were removed by distillation through an 8" Vigreaux column. The mixture was cooled (25° C.) and washed with aqueous sodium bicarbonate solution (350 mL) and brine (4×200 mL). Evaporation of solvents and crystallization of the residue gave 250 g (72.3% yield) of (4R,5R)-2-(2-phenyl-1-ethenyl)-4,5-dicarboethoxy-1-3-dioxolane, mp 55.5°-56° C., [α]D25 -5.2° (c,0.1,methanol) 1H-NMR (CDCl3)δ7.45-7.26 (5H,m), 6.86 (1H,d, J=16.1 Hz), 6.26 (1H,dd,J=6.8 Hz and 16.1 Hz), 5.82 (1H,d,J=6.8 Hz), 4.87 (1H,d,J=3.6 Hz), 4.78 (1H,d,J=3.6 Hz), 4.36-4.26 (4H,2 q, overlapping J=7.1 Hz), 1.38-1.31 (6H, 2 t, overlapping, J=7.1 Hz). IR(KBr) 2970,2890,1745,1720,1450,1410 cm.-1MS m/e (% abundance) 320(2), 247(6), 148 (38), 131(78), 115(100), 95(80), 91(8), 77(15), 55(14).

reactant | cinnamaldehyde diethylacetal | 1.08 mol, 223.0 g | C(C)OC(C=CC1=CC=CC=C1)OCC | C13H18O2
reactant | diethyl L-tartrate | 1.41 mol, 290 g | C(=O)(OCC)[C@H](O)[C@@H](O)C(=O)OCC | C8H14O6
catalyst | pyridinium p-toluenesulfonate | 1.7 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | toluene | 1100 g | C1(=CC=CC=C1)C | C7H8
product | (4R,5R)-2-(2-phenyl-1-ethenyl)-4,5-dicarboethoxy-1-3-dioxolane | 250 g, 72.3% yield | C1(=CC=CC=C1)C=CC1O[C@H]([C@@H](O1)C(=O)OCC)C(=O)OCC | C17H20O6
